Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Remicade
 
Attending: ___.
 
Chief Complaint:
Right arm and face numbness
 
Major Surgical or Invasive Procedure:
NON

 
History of Present Illness:
___ is a ___ right handed woman with a history of
ulcerative colitis (on immunosuppressive medication) and
paroxysmal atrial fibrillation who presents with several days of
intermittent numbness and tingling in the right arm and face.
Starting ___ days ago she began getting numbness with
paresthesias in her entire right arm with a sensation similar to
when a foot falls asleep. She did not note any positional
triggers. The sensation began suddenly in the entire arm and
typically would last a few minutes then fade away. She noticed 
no
weakness and was able to type through the numbness. It has
happened every day, usually several times per day. Yesterday she
had a prolonged episode that lasted 45 minutes. 

Yesterday she also had a similar sensation (described as a
tickling sensation) in her right lower face that did not 
coincide
with arm paresthesias. This also happened twice today affecting
the face. Each time it lasted a minute or so. She had no facial
droop or weakness with these episodes either. One such event
occurred while she was at her infusion appointment, at which 
time
she was recommended to have further evaluation in the ED. 

For the past few days she has also had intermittent headaches.
They are across her forehead bilaterally, mild, and last a 
couple
hours. They are not temporally related to her episodes of
paresthesias. She has no phono/photophobia or nausea/vomiting
with them. They have not been severe enough to treat.

She does report a history of neck discomfort and is always
searching for a comfortable pillow. She gets headaches that
coincide with her menstrual cycle that she has trouble 
describing
but occasionally they will throb and require treatment with
NSAIDs. She denies a history of migraine aura.
 
 
Review of Systems: Reports occasional palpitations.
The pt denies loss of vision, blurred vision, diplopia,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus or
hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness. No bowel or 
bladder
incontinence or retention. Denies difficulty with gait. The pt
denies recent fever or chills.  No recent weight loss. Denies
cough, shortness of breath.  Denies chest pain.  Denies nausea,
vomiting, diarrhea, constipation or abdominal pain.  No recent
change in bowel or bladder habits.  No dysuria. Denies rash.

 
 
Past Medical History:
-ulcerative colitis
-eczema
-depression
-h/o stage 1 cervical cancer s/p excision with cone biopsy ___
yrs ago
-paroxysmal afib diagnosed at age ___ - was on ASA but stopped
this several years ago
-occasional headaches related to her menstrual cycle (likely
migraines)
 
Social History:
___
Family History:
- migraines in mother, sister, daughter, and paternal 
grandfather
- mother: RA
- father: lung cancer
- ___: colon cancer
- paternal uncle: pancreatic cancer
- MGM: DM
- PGM, brain aneurysm
 
Physical Exam:
PHYSICAL EXAMINATION (ON ADMISSION) 
Vitals:  2  97.8  80  129/63  18  100% RA  
FSBG: 71
HEENT: NC/AT 
Pulmonary: breathing comfortably on RA
Cardiac: RRR on bedside monitor
Abdomen: soft, nondistended
Extremities: no edema, warm
Skin: no rashes or lesions noted.
 
NEUROLOGIC EXAMINATION
-Mental Status: Alert, oriented.  Able to relate history without
difficulty.  Language is fluent with intact repetition and 
normal
prosody.  There were no paraphasic errors.  Pt. was able to name
both high and low frequency objects on the stroke card. 
Described
the cookie jar picture with detail.  Able to read without
difficulty.  Speech was not dysarthric.  Able to follow both
midline and appendicular commands. There was no evidence of
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm bilaterally.  VFF to confrontation with 
finger
counting.
III, IV, VI: EOMI without nystagmus.   
V: Facial sensation intact to light touch, temp, and pin 
VII: No facial droop with symmetric upper and lower facial
musculature bilaterally  
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: full strength in trapezii bilaterally.
XII: Tongue protrudes in midline with full ROM right and left 
 
-Motor: No pronator drift bilaterally. No tremor noted. 
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   3+   2+    3     3    2
R   3    2     2+    3    2
- Toes were downgoing on left, equivocal on right.
- crossed adductors and pec jerks present bilaterally

-Sensory: Had inconsistent hyperesthesia to pin in right arm.
Otherwise, no deficits to light touch, pinprick, cold sensation,
vibratory sense throughout. No extinction to DSS. Graphesthesia
intact.

-Coordination: No dysmetria on FNF bilaterally. Rapid 
alternating
movements with normal and symmetric cadence and speed. 

-Gait: Good initiation. Narrow-based, normal stride.  Able to
walk on toes and heels without difficulty. Had a couple side
steps with tandem gait. Romberg absent.
Exam on discharge :
General: Awake, cooperative, NAD.
HEENT: NC/AT 
Pulmonary: breathing comfortably on RA
Cardiac: RRR on bedside monitor
Abdomen: soft, nondistended
Extremities: no edema, warm
Skin: no rashes or lesions noted.
 
NEUROLOGIC EXAMINATION
-Mental Status: Alert, oriented.  Able to relate history without
difficulty.  Language is fluent with intact repetition and 
normal
prosody.  There were no paraphasic errors.  Pt. was able to name
both high and low frequency objects on the stroke card. 
Described
the cookie jar picture with detail.  Able to read without
difficulty.  Speech was not dysarthric.  Able to follow both
midline and appendicular commands. There was no evidence of
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm bilaterally.  VFF to confrontation with 
finger
counting.
III, IV, VI: EOMI without nystagmus.   
V: Facial sensation intact to light touch, temp, and pin 
VII: No facial droop with symmetric upper and lower facial
musculature bilaterally  
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: full strength in trapezii bilaterally.
XII: Tongue protrudes in midline with full ROM right and left 
 
-Motor: Mil Rt drift without pronation. No tremor noted. 
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5
Mild weakness of infraspinatous righ muscle 
-DTRs: brisk through out.
- Toes were downgoing on left, equivocal on right.
- crossed adductors and pec jerks present bilaterally

-Sensory: Seemed intact to all modalities.  No extinction to 
DSS. Graphesthesia
intact.

-Coordination: No dysmetria on FNF bilaterally. Rapid 
alternating
movements with normal and symmetric cadence and speed. 

-Gait: Good initiation. Narrow-based, normal stride.  Able to
walk on toes and heels without difficulty. Had a couple side
steps with tandem gait. Romberg absent.

 
Pertinent Results:
___ 05:58PM URINE  HOURS-RANDOM
___ 05:58PM URINE  UCG-NEGATIVE
___ 05:58PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:58PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:58PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 05:41PM   GLUCOSE-79 NA+-143 K+-4.2 CL--104 TCO2-26
___ 05:30PM   CREAT-0.8
___ 05:30PM   UREA N-18
___ 05:30PM   estGFR-Using this
___ 05:30PM   ALT(SGPT)-28 AST(SGOT)-23 ALK PHOS-113* TOT 
BILI-0.4
___ 05:30PM   cTropnT-<0.01
___ 05:30PM   ALBUMIN-5.3* CALCIUM-10.4* PHOSPHATE-3.8
___ 05:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:30PM   WBC-7.5 RBC-4.80 HGB-14.2 HCT-41.6 MCV-87 
MCH-29.6 MCHC-34.1 RDW-12.5 RDWSD-39.2
___ 05:30PM   PLT COUNT-328
___ 05:30PM   ___ PTT-31.0 ___

Brain MRI on ___: 
  
IMPRESSION:  
1. Unremarkable MRI and MRV of the head.  No evidence of infarct 
or infection 
is identified. 

MRI of the cervical Spine :

IMPRESSION: 
   
1. Multilevel degenerative changes of the cervical spine causes 
spinal canal 
narrowing and cord signal abnormality suggestive of chronic 
myelopathy at 
C3-4. 
2. Neural foraminal narrowing is most significant at right C3-4, 
right C4-5, 
and bilateral C5-6 levels. 
  

 
Brief Hospital Course:
___ is a ___ year old woman  with a family
history of migraines and an active longstanding history of
inflammatory bowel disease which began as Crohns disease, now
ulcerative colitis and prior paroxysmal atrial fibrillation who
presents with a 5 day history of right arm and hand tingling 
concerning fro a stroke for which she was admitted to neurology 
. Her exam showed mild right facial asymmetry, right pronator 
drift, some  clumsiness of the right hand, with slowed rapid 
alternating movements of her right hand. She alos showed 
atopagnosia
and hyperesthesia of the right arm and mild finger extensor 
weakness on the right and  5- weakness of the right IP. She also 
 had a positive ___ on the right and the right toe is 
upgoing. 

# NEURO: 
- A CTA HEAD & CTA NECK in the ED were unremarkable 
- She had an MRI brain with and without contrast was 
unremarkable
- MRI C-spine showed multilevel degenerative changes of the 
cervical spine causes spinal canal narrowing and cord signal 
abnormality suggestive of chronic myelopathy at C3-4.
- We recommended a cervical collar to help alleviate the 
pressure prescribed Tizanidine which can help with pain and 
discomfort from the nerve root compression as needed.
- We started her on  ASA 81 given  history of paroxysmal afib 
and high concerns for an infarct. 
- Stroke risk factors: Hgb A1c 5.1, cholest 286, LDL 187, TSH 
1.1
- Vitamin B12 levels are pending upon d/c. 
.
# ___: h/o afib
- Was monitor on Telemetry for afib0 
- ECG was normal.

# ENDO:
-TSH 1.1
- thyroid nodule seen on CT - should be followed with PCP 

#GI:
- Hx of Crohns disease
.
# Toxic/Metabolic:
- LFTs with mildly elevated alk phos
- urine and serum tox screens: negative

Transitional Hospital Issues: 
- Continue ASA 81 mg indefinitely 
- F/u with PCP regarding ___ nodule 
- f/u with Neurology in ___ weeks. 
- Will need a referral to a neurosurgeon for assessment of the 
cervical stenosis.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Entyvio (vedolizumab) 300 mg intravenous WEEK 0, WEEK 2, WEEK 
6 AND THEN EVERY 8 WEEKS  Ulcerative Colitis 

 
Discharge Medications:
1. Tizanidine 4 mg PO Q8H:PRN pain or muscle spams  
RX *tizanidine 4 mg 1 capsule(s) by mouth three times a day Disp 
#*30 Capsule Refills:*2
2. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
3. Entyvio (vedolizumab) 300 mg intravenous WEEK 0, WEEK 2, WEEK 
6 AND THEN EVERY 8 WEEKS  Ulcerative Colitis 
4. Outpatient Physical Therapy
5. Atorvastatin 10 mg PO QPM 
RX *atorvastatin 10 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervical Myelopathy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ were admitted to ___ after ___ presented with  recurrent 
right arm and face numbness with frontal headaches concerning 
for a potential stroke. Your physical exam showed intermittent 
decreased sensation of your right arm and mild weakness of your 
right arm with increased reflexes throughout. We obtained a head 
CT which was negative for stroke or bleeding, we also obtained 
an MRI of your brain including brain vessels which was normal . 
The MRI of your spine shoed narrowing in the cervical spine 
which is causing pressure on nerve roots in the upper spine and 
lower face, which is the cause of your symptoms. 

AS part of the stroke work up we obtained blood work to assess 
stroke risk factors. Your Cholesterol and Triglyceride levels 
are high, your thyroid function and screen was normal and  
diabetes screen were negative. ___ should start a baby aspirin 
(81 mg daily) a low dose statin medication (atorvastatin 10mg 
daily) and have your lipid profile rechecked in 1 month.  For 
your cervical spine disease we recommend ___ use a cervical 
collar to help alleviate the pressure and will prescribe a 
medication which can help with pain and discomfort from the 
nerve root compression, which ___ should use on an as-needed 
basis. ___ will follow up with Dr. ___ in neurology and 
___ will need a referral to a spine surgeon. 
 
Followup Instructions:
___